US06426345B1
To a mixture of 2-[3-amino-5-methoxycarbonylphenylamino]-3-nitropyridine (1.10 g), triethylamine (0.6 ml) and 4-dimethylaminopyridine (14 mg) in 1,4-dioxane (15 ml) was added acetic anhydride (0.40 ml). The mixture was stirred at room temperature for 20 hours, then poured into a mixture of ethyl acetate and aqueous sodium bicarbonate. The organic phase was separated, washed with aqueous sodium bicarbonate and brine, dried over magnesium sulfate and concentrated. The resultant solid was collected and washed with isopropyl ether to give 2-(3-acetylamino-5-methoxycarbonylphenylamino)-3-nitropyridine (1.21 g).

reactant | 2-[3-amino-5-methoxycarbonylphenylamino]-3-nitropyridine | 1.10 g | NC=1C=C(C=C(C1)C(=O)OC)NC1=NC=CC=C1[N+](=O)[O-] | C13H12N4O4
reactant | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.40 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | 4-dimethylaminopyridine | 14 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-acetylamino-5-methoxycarbonylphenylamino)-3-nitropyridine | 1.21 g | C(C)(=O)NC=1C=C(C=C(C1)C(=O)OC)NC1=NC=CC=C1[N+](=O)[O-] | C15H14N4O5
